US04486221
25.4 parts of methyl 6-fluoroanthranilate and 18 parts of 2-chlorothiazole were heated to 150° C., and the methanol formed was distilled off over a bridge. The reaction was complete after 2 hours. The solid residue was neutralized, and recrystallized from isopropanol. 30 parts of 6-fluoro-5H-thiazolo[2,3-b]quinazolin-5-one of melting point 205°-207° C. were obtained.

reactant | methyl 6-fluoroanthranilate | FC=1C=CC=C(C1C(=O)OC)N | C8H8FNO2
reactant | 2-chlorothiazole | ClC=1SC=CN1 | C3H2ClNS
solvent | methanol | CO | CH4O
product | 6-fluoro-5H-thiazolo[2,3-b]quinazolin-5-one | FC1=C2C(N3C(=NC2=CC=C1)SC=C3)=O | C10H5FN2OS
